US05976759
Using 8 g of poly(p-hydroxystyrene) obtained according to (1) of Preparation Example 6 and 2.4 g of ethylvinyl ether, reaction and after-treatments were carried out according to (3) of Preparation Example 1 to give 9.2 g of poly(p-1-ethoxyethoxystyrene/p-hydroxystyrene) as faintly brown-tinted powdery crystal. P-1-ethoxyethoxystyrene unit/p-hydroxystyrene unit molar ratio in the polymer≈38:62 (1H NMR). Mw≈18,500; Mw/Mn=1.88 (GPC with polystyrene calibration).

reactant | poly(p-hydroxystyrene) | 8 g | C#CC1=CC=C(C=C1)O | C8H6O
reactant | ethylvinyl ether | 2.4 g | C(C)OC=C | C4H8O
product | p-1-ethoxyethoxystyrene p-hydroxystyrene | C(C)OCCOC1=CC=C(C=C)C=C1.OC1=CC=C(C=C)C=C1 | InChI=1S/C12H16O2.C8H8O/c1-3-11-5-7-12(8-6-11)14-10-9-13-4-2;1-2-7-3-5-8(9)6-4-7/h3,5-8H,1,4,9-10H2,2H3;2-6,9H,1H2
